US04299769
1-[3-(Acetylthio)-3-(benzo[b]thien-2-ylcarbonyl)propionyl]-L-proline
As for Example 4, γ-oxo-benzo[b]thiophene-2-butyric acid is coupled to L-proline. The coupled product is brominated and reacted with sodium thioacetate to give the product of the Example as a glass.

reactant | γ-oxo-benzo[b]thiophene-2-butyric acid | O=C(CCC(=O)O)C1=CC2=C(S1)C=CC=C2 | C12H10O3S
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium thioacetate | C(C)(=S)[O-].[Na+]
product | 1-[3-(Acetylthio)-3-(benzo[b]thien-2-ylcarbonyl)propionyl]-L-proline | C(C)(=O)SC(CC(=O)N1[C@H](C(=O)O)CCC1)C(=O)C1=CC2=C(S1)C=CC=C2 | C19H19NO5S2
